US08609653B2
A suspension of methyl 2-amino-1-cyclopropyl-4,5,6,7-tetrahydro-1H-indole-3-carboxylate (2.29 g, 9.77 mmol) in Toluene (46 mL) was treated with ethyl 3-ethoxybut-2-enoate (3.09 g, 19.55 mmol) and pTsOH (0.093 g, 0.489 mmol), and then heated to reflux (135° C.) for 2.5 hours using Dean-Stark. The mixture was cooled to rt, slowly treated with sodium ethoxide (21 wt % in EtOH) (4.38 mL, 11.73 mmol), and refluxed at 135° C. with Dean-Stark for 4 hours. The reaction was cooled to rt and concentrated. The brown residue was diluted with water and 1N HCl until neutral (pH ˜6), extracted with EtOAc, washed with brine, dried with Na2SO4, filtered, and concentrated to give 2.9568 g crude product. Water layer still contained some product. It was acidified with 1N HCl. extracted with EtOAc, washed with brine, dried with Na2SO4, filtered, and concentrated to give 203 mg crude product. Both products were combined and purified with column chromatography (0-50% EtOAc/Hexane) to give ethyl 9-cyclopropyl-4-hydroxy-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate (1.3474 g, 4.29 mmol, 43.8% yield) as white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 12.48 (s, 1 H), 4.43 (q, J=7.1 Hz, 2 H), 3.06 (quin, J=5.4 Hz, 1 H), 2.94-2.85 (m, 2 H), 2.85-2.70 (m, 5 H), 1.96-1.75 (m, 4 H), 1.45 (t, J=7.1 Hz, 3 H), 1.11 (d, 4 H); LCMS (m/z) ES+=315 (M+1).

reactant | methyl 2-amino-1-cyclopropyl-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 9.77 mmol, 2.29 g | NC=1N(C=2CCCCC2C1C(=O)OC)C1CC1 | C13H18N2O2
reactant | ethyl 3-ethoxybut-2-enoate | 19.55 mmol, 3.09 g | C(C)OC(=CC(=O)OCC)C | C8H14O3
reactant | pTsOH | 0.489 mmol, 0.093 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodium ethoxide | 11.73 mmol, 4.38 mL | [O-]CC.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | Toluene | 46 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | ethyl 9-cyclopropyl-4-hydroxy-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate | 4.29 mmol, 1.3474 g, 43.8% yield | C1(CC1)N1C2=C(C=3CCCCC13)C(=C(C(=N2)C)C(=O)OCC)O | C18H22N2O3
